US08309730B2
To anhydrous cerium(III) chloride (274 mg, 1.1 mmol) was added anhydrous THF (4 mL) under nitrogen. The mixture was stirred at RT for 30 min before vinylmagnesium bromide (1.1 mL, 1.1 mmol) was added dropwise at −78° C. under a nitrogen atmosphere. The reaction mixture was stirred at −78° C. for 30 min before a solution of 1-(4-fluorophenyl)-5a-methyl-5,5a,8,9-tetrahydroimidazo[1,5-b]isoquinolin-6(7H)-one (step a, 66 mg, 0.22 mmol) in anhydrous THF (2 mL) was added dropwise at the same temperature. The reaction mixture was stirred at −78° C. for 30 min and at RT for 1 hr. Concentrated aqueous ammonium hydroxide (1.5 mL) was added. The solid was filtered off through a celite pad and washed with ethyl acetate (3×2 mL). The organic filtrate was dried (Na2SO4), concentrated under reduced pressure, and dissolved in methanol (2 mL). Purification using reverse phase HPLC (YMC S5 20×100 mm, 10 min. run, solvent A: 10% MeOH: 90% H2O: 0.1% TFA, solvent B: 90% MeOH, 10% H2O, 0.1% TFA) gave 1-(4-fluorophenyl)-5a-methyl-6-vinyl-5,5a,6,7,8,9-hexahydroimidazo[1,5-b]isoquinolin-6-ol (40 mg, 0.12 mmol, 55% yield) as a glassy solid (after neutralization using saturated aqueous sodium bicarbonate solution and extraction with ethyl acetate). MS found: (M+H)+=325.2.

reactant | cerium(III) chloride | 1.1 mmol, 274 mg | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | vinylmagnesium bromide | 1.1 mmol, 1.1 mL | C(=C)[Mg]Br
reactant | 1-(4-fluorophenyl)-5a-methyl-5,5a,8,9-tetrahydroimidazo[1,5-b]isoquinolin-6(7H)-one | FC1=CC=C(C=C1)C=1N=CN2CC3(C(CCCC3=CC21)=O)C | C18H17FN2O
reactant | ammonium hydroxide | 1.5 mL | [OH-].[NH4+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-fluorophenyl)-5a-methyl-6-vinyl-5,5a,6,7,8,9-hexahydroimidazo[1,5-b]isoquinolin-6-ol | 0.12 mmol, 40 mg, 55% yield | FC1=CC=C(C=C1)C=1N=CN2CC3(C(CCCC3=CC21)(O)C=C)C | C20H21FN2O
